US07592363B2
Preparation of 2-(2-Chloro-4-fluoro-benzyl)-3-(4-fluoro-phenyl)-7-trifluoromethyl-2H-indazole
To a solution of 3-(4-fluoro-phenyl)-7-trifluoromethyl-1H-indazole (6.43 g, 23 mmol) in 20 mL DMF was added 2-chloro-4-fluoro benzyl bromide (7.0 g, 31 mmol). The reaction mixture was heated overnight at 120° C. After cooling to room temperature, ethyl acetate was added and the solution was washed three times with brine. The organic layer was dried over NaSO4 and concentrated. Flash chromatography (hexane/CH2Cl2, 1:1, as eluent) afforded 4.1 g of pure product. Three grams (3 g) of product were recrystallized from 10 mL of isopropanol to recover 1.98 g of crystalline product, mp 78° C.

reactant | 3-(4-fluoro-phenyl)-7-trifluoromethyl-1H-indazole | 23 mmol, 6.43 g | FC1=CC=C(C=C1)C1=NNC2=C(C=CC=C12)C(F)(F)F | C14H8F4N2
reactant | 2-chloro-4-fluoro benzyl bromide | 31 mmol, 7.0 g | ClC1=C(CBr)C=CC(=C1)F | C7H5BrClF
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(2-Chloro-4-fluoro-benzyl)-3-(4-fluoro-phenyl)-7-trifluoromethyl-2H-indazole | 4.1 g | ClC1=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(C=C2)F)C(F)(F)F)C=CC(=C1)F | C21H12ClF5N2
